US08222416B2
A mixture of 2-{4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-propan-2-ol (290 mg, 0.84 mmol) and 10% palladium on activated carbon (120 mg) in methanol (250 mL) was heated at 50° C. under hydrogen (50 psi) for 16 h. The mixture was cooled to 25° C., the solids filtered off, washed with ethyl acetate and concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-{4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-phenyl}-propan-2-ol (170 mg, 58%): LC/MS m/e calcd for C23H28N2O [M+H]+ 349.49, observed 349.4; 1H NMR (400 MHz, CD3OD) δ ppm 8.03 (d, J=4.5 Hz, 1H), 7.84 (d, J=7.6 Hz, 1H), 7.38-7.43 (m, J=8.3 Hz, 2H), 7.23-7.28 (m, J=8.1 Hz, 2H), 7.00 (dd, J=7.7, 4.9 Hz, 1H), 6.29 (s, 1H), 4.13 (t, J=7.8 Hz, 1H), 2.02-2.21 (m, 2H), 1.56-1.84 (m, 5H), 1.39-1.51 (m, 8H), 1.12-1.27 (m, 2H).

reactant | 2-{4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-propan-2-ol | 0.84 mmol, 290 mg | C1(CCCC1)C=C(C1=CC=2C(=NC=CC2)N1)C1=CC=C(C=C1)C(C)(C)O | C23H26N2O
catalyst | palladium on activated carbon | 120 mg | [Pd] | Pd
solvent | methanol | 250 mL | CO | CH4O
product | 2-{4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-phenyl}-propan-2-ol | 170 mg, 58% | C1(CCCC1)CC(C1=CC=2C(=NC=CC2)N1)C1=CC=C(C=C1)C(C)(C)O | C23H28N2O
